US05808062
4-Hydroxy-3-[(2-phenylethyl)thio]-6-[4-(phenylsulfinyl)phenyl]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-(phenylsulfinyl)acetophenone (2.50 g, 10.24 mmol), lithium bis(trimethylsilyl)amide (2.57 g, 15.36 mmol), chlorotrimethylsilane (1.94 mL, 15.36 mmol), THF (100 mL), and diethyl ester of [(2-phenylethyl)thio]-propanedioic acid (1.00 g, 3.37 mmol). m.p. 171°-173° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.76 (t, 2 H), 3.01 (t, 2 H), 6.83 (s, 1 H), 7.19 (m, 5 H), 7.54 (m, 3 H), 7.75 (d, 2 H), 7.86 (d, 2 H), 7.95 (d, 2 H), 12.05 (bs, 1 H).

reactant | 4'-(phenylsulfinyl)acetophenone | 10.24 mmol, 2.50 g | C1(=CC=CC=C1)S(=O)C1=CC=C(C=C1)C(C)=O | C14H12O2S
reactant | lithium bis(trimethylsilyl)amide | 15.36 mmol, 2.57 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 15.36 mmol, 1.94 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]-propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-3-[(2-phenylethyl)thio]-6-[4-(phenylsulfinyl)phenyl]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=C(C=C1)S(=O)C1=CC=CC=C1)=O)SCCC1=CC=CC=C1 | C25H20O4S2
